US07022725B2
To a mixture of 3-(3-methyl-5-phenyl-4-isoxazolyl)propionic acid (0.95 g), triethylamine (1.0 ml) and tetrahydrofuran (50 ml) was added ethyl chlorocarbonate (0.5 ml) at −30° C. and the mixture was stirred at −20° C. for 1 hr. To the obtained mixture was added aqueous ammonia (5 ml), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with dilute hydrochloric acid, saturated aqueous sodium hydrogencarbonate and then saturated brine, dried (MgSO4) and concentrated to give 3-(3-methyl-5-phenyl-4-isoxazolyl)propionamide (0.86 g, yield 91%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 149–151° C.

reactant | 3-(3-methyl-5-phenyl-4-isoxazolyl)propionic acid | 0.95 g | CC1=NOC(=C1CCC(=O)O)C1=CC=CC=C1 | C13H13NO3
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 0.5 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | ammonia | 5 ml | N | H3N
solvent | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(3-methyl-5-phenyl-4-isoxazolyl)propionamide | 0.86 g, yield 91% | CC1=NOC(=C1CCC(=O)N)C1=CC=CC=C1 | C13H14N2O2
